US04209621
5-(m-Chlorophenyl)-2-pyrimidinol
By the procedure described in Example 4, (m-chlorophenyl)formimidoylacetaldehyde is reacted with urea to give the product of the Example (recrystallized from ethanol), m.p. 235°-236° C.

reactant | (m-chlorophenyl)formimidoylacetaldehyde | ClC=1C=C(C=CC1)C(=N)CC=O | C9H8ClNO
reactant | urea | NC(=O)N | CH4N2O
reactant | ethanol | C(C)O | C2H6O
product | 5-(m-Chlorophenyl)-2-pyrimidinol | ClC=1C=C(C=CC1)C=1C=NC(=NC1)O | C10H7ClN2O
